US07547701B2
Potassium hydride (1.05 g, 26.2 mmol) was suspended in ethyl ether (100 mL) and cooled in and ice water bath. 1,1,1,3,3,3-Hexafluoro-2-phenylpropan-2-ol (4.0 g, 16.4 mmol) in ethyl ether (20 mL) was added over a 5 min and the solution was stirred for an hour. Triflic anhydride (4.62 g, 16.4 mmol) was added neat over 5 min and the reaction mixture was allowed to warm to ambient temperature overnight. The reaction mixture was quenched with water and diluted with ether (300 mL). The organic layer was washed with saturated sodium bicarbonate and brine and dried over magnesium sulfate to give trifluoromethanesulfonic acid 2,2,2-trifluoro-1-phenyl-1-trifluoromethyl-ethyl ester

reactant | Potassium hydride | 26.2 mmol, 1.05 g | [H-].[K+]
reactant | 1,1,1,3,3,3-Hexafluoro-2-phenylpropan-2-ol | 16.4 mmol, 4.0 g | FC(C(C(F)(F)F)(O)C1=CC=CC=C1)(F)F | C9H6F6O
reactant | Triflic anhydride | 16.4 mmol, 4.62 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | trifluoromethanesulfonic acid 2,2,2-trifluoro-1-phenyl-1-trifluoromethyl-ethyl ester | FC(C(C(F)(F)F)(C1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)(F)F | C10H5F9O3S
